US07238724B2
5-Methyl-4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester
To a suspension of 600 mg of 10% Pd—C in 25 mL of 2-propanol was added a solution of 8.9 g of crude 5-methyl-4-oxo-pyrrolidine-1,2,3-tricarboxylic acid 2,3-dibenzyl ester 1-tert-butyl ester in 100 mL of 2-propanol. The reaction was shaken under 60 psi of H2 for 1.5 h, then filtered and concentrated to an oil. This was taken up in 20 mL of 2M NaOH(aq.) and extracted with diethyl ether (3×15 mL) to remove the mineral oil introduced in the previous step. The ether layers were set aside, and the aqueous layer was cooled with an ice bath, then acidified with 10 mL of 6M HCl(aq.). The suspension was extracted with diethyl ether (3×15 mL), then the ether layers were extracted with brine (1×15 mL), dried over MgSO4, filtered, and concentrated to an oil.

reactant | 5-methyl-4-oxo-pyrrolidine-1,2,3-tricarboxylic acid 2,3-dibenzyl ester 1-tert-butyl ester | 8.9 g | C(C)(C)(C)OC(=O)N1C(C(C(C1C)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C26H29NO7
solvent | 2-propanol | 25 mL | CC(C)O | C3H8O
solvent | 2-propanol | 100 mL | CC(C)O | C3H8O
catalyst | Pd—C | 600 mg | [Pd] | Pd
product | 5-Methyl-4-oxo-pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CC(C1C)=O)C(=O)O | C11H17NO5
